US04173640
The 3-(1,2-dihydro-2-naphthalenyl)-1-methyl-2,5-pyrrolidinedione, 60 g, is taken up in dioxane and added dropwise to a suspension of 40 g of lithium aluminum anhydride (LAH) in 2 l. diethyl ether. After 5 hours at reflux, the mixture is decomposed with K2CO3 solution and filtered. Evaporation of the organic layer leaves 42.8 g of 3-(1,2-dihydro-2-naphthalenyl)-1-methylpyrrolidine which is distilled at 125°-150°/0.2 mm IR and NMR consistent, 28 g yield (54%).

reactant | 3-(1,2-dihydro-2-naphthalenyl)-1-methyl-2,5-pyrrolidinedione | C1C(C=CC2=CC=CC=C12)C1C(N(C(C1)=O)C)=O | C15H15NO2
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(1,2-dihydro-2-naphthalenyl)-1-methylpyrrolidine | 42.8 g | C1C(C=CC2=CC=CC=C12)C1CN(CC1)C | C15H19N
